US07320993B1
N-(8-hydroxy-8,8-diphenyloctyl)-3-pyridin-3-yl-acrylamide (Substance 41)
3.4 g (23.0 mmol) 3-(3-pyridyl)-acrylic acid and 3.7 g (23.0 mmol) CDI are heated under reflux in 50 ml THF under moisture exclusion. After one hour this is cooled to RT and 6.5 g (21.9 μmmol) 8-hydroxy-8,8-diphenyloctylamine, dissolved in 20 ml THF, is added dropwise. After complete addition, stirring is carried out for a further three hours at RT and this is left to stand overnight. 50 ml water is added to the mixture and extracted three times with acetic acid ethyl ester by shaking. The combined organic phases are washed with saturated NaCl solution, dried over sodium sulfate, and the solvent is removed under vacuum. The residue is chromatographically purified over silica gel with CHCl3/CH3OH (95/5) and subsequently, crystallized twice from 200-ml and 140 ml acetic acid ethyl ester: Colorless crystals with MP. 139-140° C. in a yield of 3.7 g (39%). C28H32N2O2 (428.6)

reactant | 3-(3-pyridyl)-acrylic acid | 23.0 mmol, 3.4 g | N1=CC(=CC=C1)C=CC(=O)O | C8H7NO2
reactant | CDI | 23.0 mmol, 3.7 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 8-hydroxy-8,8-diphenyloctylamine | 6.5 g | OC(CCCCCCCN)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H27NO
reactant | water | 50 ml | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | N-(8-hydroxy-8,8-diphenyloctyl)-3-pyridin-3-yl-acrylamide | OC(CCCCCCCNC(C=CC=1C=NC=CC1)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H32N2O2
